US05206240
6,7-Dimethoxy-spiro[1,2,3,4-tetrahydroisoquinoline-1,4'-piperidine]-4-one Dihydrochloride
To a solution of 6,7-dimethoxy-1'-methylspiro[1,2,3,4-tetrahydroisoquinoline-1,4'-piperidin]-4-one (Helv. Chem. Acta., 58, Fasc. 1, Nr. 8 (1975)) (1.0 g) and N,N,N',N'-tetramethyl-1,8-napthalenediamine (1.9 g) in dichloroethane at 0° C. under nitrogen was added 1-chloroethyl chloroformate (9.5 ml) and the mixture stirred at reflux for 1 hr. The reaction was cooled, passed thru silica and the product eluted with 10% ethyl acetate in methylene chloride. After evaporation, methanol was added and the mixture refluxed for 1 hr. Upon evaporation the foam was crystallized from ethanol/ether to give 0.6 g of the title compound as dihydrochloride salt.

reactant | 6,7-dimethoxy-1'-methylspiro[1,2,3,4-tetrahydroisoquinoline-1,4'-piperidin]-4-one | COC=1C=C2C(CNC3(CCN(CC3)C)C2=CC1OC)=O | C16H22N2O3
reactant | N,N,N',N'-tetramethyl-1,8-napthalenediamine | 1.9 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 9.5 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 6,7-Dimethoxy-spiro[1,2,3,4-tetrahydroisoquinoline-1,4'-piperidine]-4-one Dihydrochloride | 0.6 g | Cl.Cl.COC=1C=C2C(CNC3(CCNCC3)C2=CC1OC)=O | InChI=1S/C15H20N2O3.2ClH/c1-19-13-7-10-11(8-14(13)20-2)15(17-9-12(10)18)3-5-16-6-4-15;;/h7-8,16-17H,3-6,9H2,1-2H3;2*1H
